US09290451B2
b) 6-Cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid ((S)-1-hydroxymethyl-3-methyl-butyl)-amide
The title compound was synthesized in analogy to Example 1, using 6-cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid and (2S)-2-amino-4-methyl-1-pentanol (CAN 7533-40-6) as starting materials, MS (LC/MS): 362.2 [M+H]+.

reactant | 6-cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)N1CCCC1 | C14H18N2O3
reactant | (2S)-2-amino-4-methyl-1-pentanol | N[C@H](CO)CC(C)C | C6H15NO
product | 6-Cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid ((S)-1-hydroxymethyl-3-methyl-butyl)-amide | OC[C@H](CC(C)C)NC(=O)C1=NC(=C(C=C1)N1CCCC1)OCC1CC1 | C20H31N3O3
